US08455477B2
To a solution of 5-methoxy-7-phenylimidazo[1,2-a]pyridine (397 mg, 1.77 mmol) in acetonitrile (30 ml) was added N-iodosuccinimide (478 mg, 2.12 mmol). After 1 h the reaction mixture was diluted with ethyl acetate, washed with 1N aqueous sodium hydroxide and water, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to give 3-iodo-5-methoxy-7-phenylimidazo[1,2-a]pyridine. 1H NMR (600 MHz, DMSO-d6) δ 7.86 (d, 1H); 7.83 (d, 1H); 7.52-7.53 (m, 1H); 7.48-7.45 (m, 2H); 7.38-7.40 (m, 1H); 7.33-7.35 (m, 1H); 6.61 (d, 1H); 4.10 (s, 3H). LRMS (ESI) calculated for C14H12IN2O [M+H]+, 351.0 found 350.9.

reactant | 5-methoxy-7-phenylimidazo[1,2-a]pyridine | 1.77 mmol, 397 mg | COC1=CC(=CC=2N1C=CN2)C2=CC=CC=C2 | C14H12N2O
reactant | N-iodosuccinimide | 2.12 mmol, 478 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-iodo-5-methoxy-7-phenylimidazo[1,2-a]pyridine | IC1=CN=C2N1C(=CC(=C2)C2=CC=CC=C2)OC | C14H11IN2O
